US04472411
In 70 ml of isopropyl alcohol saturated with ammonia were dissolved 5 g of 2-nitratoethyl acetoacetate and 2 g of 2-nitrobenzaldehyde. The solution was heated at reflux for 5 hours and then treated in the manner described in Example 1 to give 2.51 g of 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid bis(2-nitratoethyl) ester.

reactant | acetoacetate | 5 g | C(CC(=O)C)(=O)[O-]
reactant | 2-nitrobenzaldehyde | 2 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | ammonia | N | H3N
solvent | isopropyl alcohol | 70 ml | C(C)(C)O | C3H8O
product | 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid | 2.51 g | CC=1NC(=C(C(C1C(=O)O)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)O)C | C15H14N2O6
